US06329392B1
1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-methoxycarbonyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine
Combine 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine (1.0 g, 1.69 mmol), methyl (4-bromomethyl)benzoate (1.55 g, 6.76 mmol), and 1,8-diazabicyclo[5.4.0]undec-7-ene (2.06 g, 13.52 mmol) in acetonitrile (20 mL). Heat to reflux. After 72 hours, dilute the reaction mixture with ethyl acetate and extract three times with saturated aqueous ammonium chloride solution, saturated aqueous sodium bicarbonate solution, water, and saturated aqueous sodium chloride solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 5/1 ethyl acetate/methanol to give an oil. Combine the oil with dichloromethane and extract with 5% sodium bicarbonate solution. Dry the organic layer over Na2SO4, filter, and concentrate in vacuo to obtain a residue. Dry the residue in vacuo at 82° C. to give the title compound: mp; 92.0-96.0° C.; Rf=0.43 (silica gel, 5/1 ethyl acetate/methanol). Elemental Analysis calculated for C44H48N4O7: C 70.95; H 6.50; N 7.52; Found: C 70.78; H 6.56; N 7.48.

reactant | 1-(3,4,5-trimethoxy-benzoyl)-3-[2-[4-[1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | 1.69 mmol, 1.0 g | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2)C=CC=C3)C=C(C1OC)OC | C35H40N4O5
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 13.52 mmol, 2.06 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | ethyl acetate methanol | C(C)(=O)OCC.CO
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(3,4,5-Trimethoxy-benzoyl)-3-[2-[4-[1-(4-methoxycarbonyl-benzyl)-1 H-benzoimidazole-2-carbonyl]-piperidin-1-yl]-ethyl]-3-phenyl-pyrrolidine | COC=1C=C(C(=O)N2CC(CC2)(C2=CC=CC=C2)CCN2CCC(CC2)C(=O)C2=NC3=C(N2CC2=CC=C(C=C2)C(=O)OC)C=CC=C3)C=C(C1OC)OC | C44H48N4O7
